US08212041B2
A 48 mL sealed tube was charged with tert-butyl (6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methylcarbamate (0.150 g, 0.529 mmol), 1-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrrolidin-2-one (0.242 g, 0.793 mmol), PdCl2(dppf)-CH2Cl2Adduct (0.0432 g, 0.0529 mmol), cesium carbonate (0.689 g, 2.11 mmol), 1,4-dioxane (3.62 ml, 42.3 mmol), and water (0.905 ml, 50.2 mmol), flushed with argon, sealed, then placed in a 80° C. oil bath for 5 hours. The contents were transferred to a flask and concentrated. The solid was triturated with water to give a red residue, which was purified by MPLC using a 40 g RediSep column, eluting with 2-6% MeOH/DCM over 40 minutes. tert-butyl (6-(3-fluoro-4-(2-oxopyrrolidin-1-yl)phenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methylcarbamate (0.117 g, 51.9% yield) was isolated as a tan solid.

reactant | tert-butyl (6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methylcarbamate | 0.529 mmol, 0.150 g | ClC=1C=CC=2N(N1)C(=NN2)CNC(OC(C)(C)C)=O | C11H14ClN5O2
reactant | 1-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrrolidin-2-one | 0.793 mmol, 0.242 g | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)N1C(CCC1)=O | C16H21BFNO3
reactant | cesium carbonate | 2.11 mmol, 0.689 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,4-dioxane | 42.3 mmol, 3.62 ml | O1CCOCC1 | C4H8O2
reactant | water | 50.2 mmol, 0.905 ml | O | H2O
product | tert-butyl (6-(3-fluoro-4-(2-oxopyrrolidin-1-yl)phenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methylcarbamate | 0.117 g, 51.9% yield | FC=1C=C(C=CC1N1C(CCC1)=O)C=1C=CC=2N(N1)C(=NN2)CNC(OC(C)(C)C)=O | C21H23FN6O3
